US06727264B1
N-(3-{1-[5-(1H-INDOL-1-YL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared as above, using 1-(5-chloropentyl)-1H-indole (22.2 mg, 0.100 mmol), 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide (24.6 mg, 0.100 mmol), K2CO3 (27.6 mg, 0.200 mmol), NaI (23.0 mg, 0.150 mmol) and DMF (1.00 mL), giving the desired product as a yellow oil (36 mg, 81%). 1H NMR (400 MHz, CDCl3) δ 8.08-6.52 (m, 11H), 4.19 (t, 2H, J=7.2 Hz), 3.26-3.10 (m, 2H), 2.71-2.55 (m, 2H), 2.55-2.42 (m, 2H), 2.35-2.12 (m, 2H), 2.12-1.80 (m, 6H), 1.80-1.57 (m, 2H), 1.51-1.34 (m, 2H), 1.31 (d, 6H, J=6.8 Hz); ESMS m/e: 432.2 (M+H)+.

reactant | 1-(5-chloropentyl)-1H-indole | 0.100 mmol, 22.2 mg | ClCCCCCN1C=CC2=CC=CC=C12 | C13H16ClN
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | 0.100 mmol, 24.6 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
reactant | K2CO3 | 0.200 mmol, 27.6 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 0.150 mmol, 23.0 mg | [Na+].[I-]
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
product | N-(3-{1-[5-(1H-INDOL-1-YL)PENTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | 36 mg, 81% | N1(C=CC2=CC=CC=C12)CCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C28H37N3O
